### PR TITLE
[Merged by Bors] - feat: meromorphic functions are measurable

### PR DESCRIPTION
**Pull request by kebekus**
Show that meromorphic functions are measurable.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 1]
```diff
@@ -19,9 +20,9 @@ Main statements:
   and `g` analytic at `z₀`.
 -/
 
-@[expose] public section
+open Filter Set
 
-open Filter
+@[expose] public section
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean:23]: If there's no reason, let's revert this to reduce the diff. If there is a reason, you can leave it.

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 2]
```diff
@@ -597,4 +598,35 @@ theorem eventually_codiscreteWithin_analyticAt
...
+The singular set of a meromorphic function is countable.
+-/
+theorem countable_compl_analyticAt [SecondCountableTopology 𝕜] [CompleteSpace E]
+    (h : MeromorphicOn f U) :
+    ({z | AnalyticAt 𝕜 f z}ᶜ ∩ U).Countable := by
+  classical
+  have : DiscreteTopology ↑({z | AnalyticAt 𝕜 f z}ᶜ ∩ U) := by
+    apply isDiscrete_iff_discreteTopology.1 (isDiscrete_of_codiscreteWithin _)
+    simpa using eventually_codiscreteWithin_analyticAt f h
+  apply countable_of_Lindelof_of_discrete
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: Can you please provide a `IsDiscrete` + `Set.Countable` version of `countable_of_Lindelof_of_discrete` (which is itself misnamed because the `L` should be lower case). That will make this much cleaner.

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 3]
```diff
@@ -597,4 +598,35 @@ theorem eventually_codiscreteWithin_analyticAt
...
+  have h₂ : IsOpen s := isOpen_analyticAt 𝕜 f
+  have h₃ : ContinuousOn f s := fun z hz ↦ hz.continuousAt.continuousWithinAt
+  apply measurable_of_isOpen
+  intro V hV
+  rw [(by aesop : f ⁻¹' V = (f ⁻¹' V ∩ s) ∪ (f ⁻¹' V ∩ sᶜ))]
+  apply MeasurableSet.union (IsOpen.measurableSet _) (h₁.mono inter_subset_right).measurableSet
+  rw [isOpen_iff_mem_nhds] at *
+  intro x a
+  simp_all only [mem_setOf_eq, mem_inter_iff, mem_preimage, inter_mem_iff, and_true, s]
+  apply h₃.continuousAt (h₂ x a.2) (hV (f x) a.1)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: I think this is easier. If `s` is a measurable set, and `f` is measurable on both `s` and `sᶜ` (the former because it's continuous there, the latter because `sᶜ` is countable), then `f` is measurable.
```suggestion
  have h₁' := h₁.to_subtype
  have h₂ : IsOpen s := isOpen_analyticAt 𝕜 f
  have h₃ : ContinuousOn f s := fun z hz ↦ hz.continuousAt.continuousWithinAt
  exact .of_union_range_cover (.subtype_coe h₂.measurableSet) (.subtype_coe h₁.measurableSet)
    (by simp [- mem_compl_iff]) h₃.restrict.measurable (measurable_of_countable _)
```

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 4]
```diff
@@ -597,4 +598,35 @@ theorem eventually_codiscreteWithin_analyticAt
...
+  classical
+  have : DiscreteTopology ↑({z | AnalyticAt 𝕜 f z}ᶜ ∩ U) := by
+    apply isDiscrete_iff_discreteTopology.1 (isDiscrete_of_codiscreteWithin _)
+    simpa using eventually_codiscreteWithin_analyticAt f h
+  apply countable_of_Lindelof_of_discrete
+
+/--
+Meromorphic functions are measurable.
+-/
+theorem meromorphic_measurable [MeasurableSpace 𝕜] [SecondCountableTopology 𝕜] [BorelSpace 𝕜]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: At least until we have the `Meromorphic` predicate (which I suggest adding before you develop too much theory using the spelling `MeromorphicOn f Set.univ` and then you have to change it later), you should write it like this.
```suggestion
theorem measurable [MeasurableSpace 𝕜] [SecondCountableTopology 𝕜] [BorelSpace 𝕜]
```

File: Mathlib/Analysis/Meromorphic/Basic.lean [hunk 5]
```diff
@@ -597,4 +598,35 @@ theorem eventually_codiscreteWithin_analyticAt
   intro x hx
   simp [hx]
 
+/--
+The singular set of a meromorphic function is countable.
+-/
+theorem countable_compl_analyticAt [SecondCountableTopology 𝕜] [CompleteSpace E]
+    (h : MeromorphicOn f U) :
+    ({z | AnalyticAt 𝕜 f z}ᶜ ∩ U).Countable := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Meromorphic/Basic.lean]: oh, and I would call this `countable_compl_analyticAt_inter` and then have a convenience lemma for the case when `U := Set.univ` called `countable_compl_analyticAt` (until we have the good predicate).

**Comment by kebekus** [comment]
@j-loreaux I implemented all your changes. Adding the predicate `Meromorphic` is next on my TODO-List. Season's Greetings, Stefan.
